US06890947B2
In analogy to the procedure described in example 44, rac-3-(1H-indol-5-yl)-2-phenoxy-propionic acid methyl ester (preparation 7) was reacted with 4-chloromethyl-5-methyl-2-(4-trifluoromethyl-phenyl)-oxazole to give rac-3-{1-[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl methyl]-1H-indol-5-yl}-2-phenoxy-propionic acid as colorless solid.

reactant | rac-3-(1H-indol-5-yl)-2-phenoxy-propionic acid methyl ester | COC(C(CC=1C=C2C=CNC2=CC1)OC1=CC=CC=C1)=O | C18H17NO3
reactant | 4-chloromethyl-5-methyl-2-(4-trifluoromethyl-phenyl)-oxazole | ClCC=1N=C(OC1C)C1=CC=C(C=C1)C(F)(F)F | C12H9ClF3NO
product | rac-3-{1-[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl methyl]-1H-indol-5-yl}-2-phenoxy-propionic acid | CC1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)CN1C=CC2=CC(=CC=C12)CC(C(=O)O)OC1=CC=CC=C1 | C29H23F3N2O4
